US08258173B2
A solution of 4,5-dimethoxyindole-3-carbaldehyde (0.21 g, 1.02 mmol) and ammonium acetate (0.1268 g, 1.60 mmol) in nitromethane (10 cm3) was stirred at 70-75° C. under nitrogen for 11 hours using the method of Macor et al. The mixture was concentrated under vacuum and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried with MgS04, and evaporated under vacuum to afford dimethoxy-3-(2-nitroethenyl)indole (0.25 g, 99%) as a brown solid.

reactant | 4,5-dimethoxyindole-3-carbaldehyde | 1.02 mmol, 0.21 g | COC1=C2C(=CNC2=CC=C1OC)C=O | C11H11NO3
reactant | ammonium acetate | 1.60 mmol, 0.1268 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 10 cm3 | [N+](=O)([O-])C | CH3NO2
product | dimethoxy-3-(2-nitroethenyl)indole | 0.25 g, 99% | COC1=C2C(=C(NC2=CC=C1)OC)C=C[N+](=O)[O-] | C12H12N2O4
